2129-03-23 09:25:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   37 yo male with spina bifida, chronically on the ventilator, here with
   sepsis and dense L-sided pneumonia. H/O chronic stage IV decubitus
   ulcer. Home settings on AV vent. Started on cefipime/vanc, fluid
   resuscitated. ARF with Cr 1.9 (baseline 0.7). UA + in ED.
   24 Hour Events:
 PICC LINE - START [**2129-3-22**] 11:03 PM
 MULTI LUMEN - START [**2129-3-22**] 11:06 PM
 ULTRASOUND - At [**2129-3-23**] 03:36 AM
   Did not receive pressors.
   Urine output approx 35-70cc/h.
   Tan/brown thick resp secretions, mod-large amt.
   Allergies:
   Gatifloxacin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Seroquel (Oral) (Quetiapine Fumarate)
   Unknown;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2129-3-23**] 02:19 AM
   Vancomycin - [**2129-3-23**] 07:48 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2129-3-23**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2129-3-23**] 06:02 AM
   Dextrose 50% - [**2129-3-23**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Diarrhea
   Flowsheet Data as of  [**2129-3-23**] 09:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 86 (73 - 92) bpm
   BP: 92/65(71) {73/47(52) - 102/65(71)} mmHg
   RR: 21 (15 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.2 kg (admission): 92.2 kg
   Height: 61 Inch
   CVP: 21 (13 - 24)mmHg
   Total In:
                                                                  3,500 mL
                                                                  5,162 mL
   PO:
   TF:
   IVF:
                                                                    500 mL
                                                                  5,112 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                    410 mL
   Urine:
                                                                    100 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,400 mL
                                                                  4,752 mL
   Respiratory support
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 600 (600 - 650) mL
   Vt (Spontaneous): 394 (283 - 995) mL
   RR (Set): 12
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: ///20/
   Ve: 9.5 L/min
   Physical Examination
   General Appearance: Overweight / Obese, No(t) Anxious, No(t)
   Diaphoretic, talking, calm
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: left, lateral)
   Abdominal: ureteral bag
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): all, Movement: Purposeful, No(t) Sedated, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   201 K/uL
   33 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.8 mEq/L
   39 mg/dL
   105 mEq/L
   136 mEq/L
   27.5 %
   12.7 K/uL
        [image002.jpg]
                             [**2129-3-22**]  11:00 PM
                             [**2129-3-23**]  06:08 AM
   WBC
   14.6
   12.7
   Hct
   26.4
   27.5
   Plt
   216
   201
   Cr
   1.6
   1.4
   Glucose
   58
   33
   Other labs: PT / PTT / INR:16.2/33.5/1.4, ALT / AST:13/14, Alk Phos / T
   Bili:105/1.2, Albumin:3.2 g/dL, LDH:135 IU/L, Ca++:7.9 mg/dL, Mg++:2.0
   mg/dL, PO4:4.4 mg/dL
   Imaging: Port CXR left chest opacification.
   Overnight USG did not reveal large amt fluid.
   Microbiology: legionella pending
   Assessment and Plan
   37 yo male with spina bifida, chronically on the ventilator, here with
   sepsis and dense L-sided pneumonia, pleural effusion, UTI, stage 4
   sacral decub. ARF .
    Adequate fluid resuscitation.
   1. Sepsis- sources listed above. Covering for VAP/HAP, MRSA ulcer,
   with cefepime and vancomycin.  Will tailor based on culture data.
   Pending cx data.   Will add pressor if necessary but for now continue
   bolus as necessary following urine output, MAP, CVP.
   2. Acute renal failure: sepsis, in setting hypotension, improving.
   3. Respiratory Failure: A/C 650 x12, 50% FIO2, PEEP 5 --> decreased
   tidal volume by 100cc to avoid overdistention of healthy lung.
   Dyspnea: L-sided effusion visualized by ultrasound and not considered
   large by attending overnight. PNA with thick secretions. MDI as he gets
   as outpt.
    4. Access: Central line terminates proximally in subclavian. Remain in
   place.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2129-3-22**] 11:03 PM
   Multi Lumen - [**2129-3-22**] 11:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments: refusing mouth care
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2129-03-24 07:52:00 Physician Resident Progress Note
Chief Complaint: 37 yo male with spina bifida, h/o hypercarbic resp
   failure on chronic vent support, h/o recurrent UTIs, a/w sepsis
   (hypotension, fever, LLL infiltrate, positive UA)
   24 Hour Events:
 SPUTUM CULTURE - At [**2129-3-23**] 08:00 AM
 FEVER - 101.3
F - [**2129-3-23**] 09:00 PM
   -Urine legionella ag negative
   -c. diff not sent
   -Sputum gram stainwith 3+ GNR, 3+ GPR, culture pending.
   -Urine culture with 10,000-100,000 GNR, speciation pending
   -Blood culture no growth to date
   -CVP ~20 all day, UOP ~150cc/hour, no boluses needed.
   -repeat u/s to evaluate for effusion not done, CXR read PNA vs
   atelectasis
   Allergies:
   Gatifloxacin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Seroquel (Oral) (Quetiapine Fumarate)
   Unknown;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2129-3-23**] 07:02 PM
   Cefipime - [**2129-3-24**] 05:30 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2129-3-23**] 07:14 PM
   Heparin Sodium (Prophylaxis) - [**2129-3-23**] 08:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-24**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.1
C (98.8
   HR: 89 (79 - 103) bpm
   BP: 101/48(61) {84/40(51) - 127/66(76)} mmHg
   RR: 28 (16 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.2 kg (admission): 92.2 kg
   Height: 61 Inch
    CVP: 24 (18 - 27)mmHg
   Total In:
                                                                  6,500 mL
                                                                    242 mL
   PO:
                                                                    740 mL
   TF:
   IVF:
                                                                  5,710 mL
                                                                    242 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                    935 mL
   Urine:
                                                                  2,400 mL
                                                                    935 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,100 mL
                                                                   -693 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 615 (394 - 800) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 22 cmH2O
   SpO2: 98%
   ABG: ///18/
   Ve: 9.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   180 K/uL
   8.1 g/dL
   133 mg/dL
   1.0 mg/dL
   18 mEq/L
   2.9 mEq/L
   29 mg/dL
   108 mEq/L
   138 mEq/L
   25.3 %
   8.7 K/uL
        [image002.jpg]
                             [**2129-3-22**]  11:00 PM
                             [**2129-3-23**]  06:08 AM
                             [**2129-3-24**]  02:21 AM
   WBC
   14.6
   12.7
   8.7
   Hct
   26.4
   27.5
   25.3
   Plt
   [**Telephone/Fax (3) 2382**]
   Cr
   1.6
   1.4
   1.0
   Glucose
   58
   33
   133
   Other labs: PT / PTT / INR:16.7/28.7/1.5, ALT / AST:13/14, Alk Phos / T
   Bili:105/1.2, Albumin:3.2 g/dL, LDH:135 IU/L, Ca++:8.2 mg/dL, Mg++:2.0
   mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   37 yo male with spina bifida, h/o hypercarbic resp failure on chronic
   vent support, h/o recurrent UTIs, a/w sepsis (hypotension, fever, LLL
   infiltrate, positive UA)
   #. Sepsis: patient is tachycardic, initially hypotensive with response
   to IVFs, leukocytosis.  Likely sources include LLL infiltrate- c/w
   HAP/VAP, positive UA in the setting of frequent UTIs, and stage IV
   decubitus ulcer.  Also has diarrhea.
   - goal MAP>65; IVFs to maintain MAPs, but if not meeting goal despite
   IVFs, likely will need pressors but currently stable
   - will cover for VAP/HAP with cefepime 2 gm Q8H, Vancomycin 1 gm Q24
   (renally dosed), but will defer double pseudomonas coverage given h/o
   allergy to quinolones.
   - Positive UA, cultures pending.  cefepime/vanco would cover most
   organisms that would cause UTI.  will further change antimicrobial
   coverage with culture data
   - Decubitus ulcer: will cover with vancomycin for skin flora.
   - also question of L pleural effusion not well characterized on
   portable CXR and possibly worse from CXR on [**3-21**] (no films to compare;
   only report from OSH); may consider PA/Lat with decub if patient
   tolerates; or CT, or can consider US to eval for pleural effusion and
   if large enough to do thoracentesis.  No acute need for thoracentesis
   at this time since patient is stable from a respiratory standpoint,
   though could be infectious source.
   - blood culture pending; urine culture pending; for hyponatremia and
   pneumonia, will send urinary legionella antigen.  Culture with temp
   spike
   - will send C.diff for frequent stools though unlikely in the setting
   of receiving only 2-3 days of antibiotics
   - will send sputum sample; check LFTs
   #. Acute Kidney Injury: creatinine up to 1.9 today from 0.7 on [**3-21**];
   most likely cause is hypotension/sepsis in the setting of infection;
   also has positive UA
   - aggressive IVFs for hypotension/intravascular volume depletion
   - receives furosemide at home; hold for now
   - cont to monitor creatinie; renally dose meds.  avoid nephrotoxins
   - check urine lytes
   #. Chronic hypercarbic resp failure dependant on Vent
   - will decrease vent settings to AC 550/10/50%/5 for now
   - respiratory therapy to follow
   - sputum sample
   - check VBG
   #. DM
   - hold metformin/glipizide for now; cover with ISS
   #. Hypertension: hypotensive initially likely in the setting of sepsis
   - hold off on atenolol, furosemide for now
   #. F/E/N
   - diabetic diet
   - NS bolus x 1L
   - replete lytes PRN
   #. PPx
   - hep sc; pneumoboots
   - H2 blocker
   #. FULL CODE
   #. Dispo: ICU care while resolving acute issues
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2129-3-22**] 11:03 PM
   Multi Lumen - [**2129-3-22**] 11:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-03-24 11:14:00 Physician Attending Progress Note
Chief Complaint: sepsis, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   37 yo male with spina bifida, chronically on the ventilator, here with
   sepsis and dense L-sided pneumonia, pleural effusion, UTI, stage 4
   sacral decub. ARF .
   24 Hour Events:
 SPUTUM CULTURE - At [**2129-3-23**] 08:00 AM
 FEVER - 101.3
F - [**2129-3-23**] 09:00 PM
   Urine cx showed panresistant EColi but sensitivities to cefipime,
   ceftaz, and  meropenem are pending.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below.
   See Dr. [**Last Name (STitle) **]
s note for exam, data.
   Assessment and Plan
   37 yo male with spina bifida, chronically on the ventilator, here with
   sepsis and dense L-sided pneumonia, pleural effusion, UTI, stage 4
   sacral decub. ARF .
    1. Sepsis- sources listed above and with panresistant EColi in urine.
   Will continue cefipime/vanco as he is stable, until we get results of
   meropenem and cefipime sensitivy. Covering for VAP/HAP, MRSA ulcer.
   Hemodynamically stable.
   2. Acute renal failure: sepsis, in setting hypotension, improved.
   3. Respiratory Failure, left pleural effusion, atelectasis on admit
   CXR: A/C 650 x12, 50% FIO2, PEEP 5 --> decreased tidal volume by 100cc
   to avoid overdistention of healthy lung. Recheck CXR to determine
   reexpansion.
   Dyspena resolved.
   Clinically stable, can return to [**Hospital1 630**] after we determine appropriate
   antibiotics.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2129-3-22**] 11:03 PM
   Multi Lumen - [**2129-3-22**] 11:06 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2129-03-25 07:54:00 Physician Resident Progress Note
Chief Complaint: 37 yo male with spina bifida, h/o hypercarbic resp
   failure on chronic vent support, h/o recurrent UTIs, a/w sepsis
   (hypotension, fever, LLL infiltrate, positive UA) now with GPR/GNR in
   sputum and pan-resistant E.Coli in urine
   24 Hour Events:
   - Growing pan-resistant E. Coli in urine, Cefepime and imipenem
   sensistivities pending
   - ID curbsided, plan to maintain pt on current vanc/cefepime as WBC
   decreasing and afebrile, HD stable
   - CXR showing likely large effusion on left
   Allergies:
   Gatifloxacin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Seroquel (Oral) (Quetiapine Fumarate)
   Unknown;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2129-3-24**] 09:37 PM
   Cefipime - [**2129-3-25**] 06:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2129-3-24**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-25**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.1
   HR: 79 (75 - 93) bpm
   BP: 118/75(85) {97/55(66) - 126/84(91)} mmHg
   RR: 20 (18 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.2 kg (admission): 92.2 kg
   Height: 61 Inch
    CVP: 26 (21 - 30)mmHg
   Total In:
                                                                  1,112 mL
                                                                    779 mL
   PO:
                                                                    150 mL
                                                                    600 mL
   TF:
   IVF:
                                                                    962 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                  2,420 mL
                                                                    515 mL
   Urine:
                                                                  2,420 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,308 mL
                                                                    264 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   SpO2: 96%
   ABG: ///17/
   Ve: 15.7 L/min
   Physical Examination
   Gen: Awake, alert, responsive
   CV: RRR
   Lungs: coarse BS, diminshed on left base- trach in place
   Abd: obese, firm, NT. Normal BS
   Ext: 2+ BLE edema, stable
   Neuro: A/O x 3
   Labs / Radiology
   220 K/uL
   7.7 g/dL
   166 mg/dL
   0.8 mg/dL
   17 mEq/L
   3.1 mEq/L
   20 mg/dL
   112 mEq/L
   141 mEq/L
   26.9 %
   7.6 K/uL
        [image002.jpg]
                             [**2129-3-22**]  11:00 PM
                             [**2129-3-23**]  06:08 AM
                             [**2129-3-24**]  02:21 AM
                             [**2129-3-25**]  02:17 AM
   WBC
   14.6
   12.7
   8.7
   7.6
   Hct
   26.4
   27.5
   25.3
   26.9
   Plt
   [**Telephone/Fax (3) 2398**]20
   Cr
   1.6
   1.4
   1.0
   0.8
   Glucose
   58
   33
   133
   166
   Other labs: PT / PTT / INR:15.8/28.3/1.4, ALT / AST:13/14, Alk Phos / T
   Bili:105/1.2, Albumin:3.2 g/dL, LDH:135 IU/L, Ca++:8.3 mg/dL, Mg++:2.0
   mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   37 yo male with spina bifida, h/o hypercarbic resp failure on chronic
   vent support, h/o recurrent UTIs, a/w sepsis (hypotension, fever, LLL
   infiltrate, positive UA) now with GPR/GNR in sputum and pan-resistant
   E.Coli in urine
   #. Sepsis: improved; source sputum/urine so far.
   - sputum with gram positive rods and gram negative rods; found to have
   P. aureginosa, sensitivites pending.  Urine with resistant e.coli.
   sensitive to tobra/gent but also sensitive to cefepime.
   -  Cont for full 15 day course for HAP/VAP; will await sensitivities to
   see if sputum is sensitive to cefepime
   - stop vanco; no evidence of GPC on any culture
   - contact precautions
   - Decubitus ulcer: appreciated wound care recs.
   - c.diff; pending
   - culture if spikes
   #. Acute Kidney Injury: improving
   - receives furosemide at home; hold for now
   #. Chronic hypercarbic resp failure dependant on Vent
   - cont with current vent settings
   - respiratory therapy to follow
   - patient asked about the possibility of stenting lower left airway
   since he
s had problems since the past with that; will consider
   bronchoscopy this afternoon- d/w team.
   #. DM
   - patient refusing ISS.  Cont home diabetic meds
   #. Hypertension: hypotensive initially likely in the setting of sepsis
   - hold off on atenolol, furosemide for now
   ICU Care
   Nutrition: regular diet (refusing diabetic); NPO for now for possible
   bronchscopy
   Glycemic Control:  home meds; refusing ISS
   Lines:
   PICC Line - [**2129-3-22**] 11:03 PM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: famotidine
   VAP:  mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU until placement at rehab for chronic vent. Will need
   full 2 wk course of cefepime

2129-03-25 12:09:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   Chief Complaint: sepsis, pna, UTI, stage 4 sacral decub
   HPI:
   37 yo M with spina bifida, chronically on the ventilator, a/w sepsis
   and dense L-sided pneumonia, pleural effusion, UTI, stage 4 sacral
   decub, ARF.
   24 Hour Events:
   Ecoli UTI - sensitive to cefepime
   Allergies:
   Gatifloxacin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Seroquel (Oral) (Quetiapine Fumarate)
   Unknown;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2129-3-25**] 06:00 AM
   Vancomycin - [**2129-3-25**] 08:30 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2129-3-25**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-25**] 12:09 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 78 (75 - 93) bpm
   BP: 112/72(81) {97/57(68) - 126/77(87)} mmHg
   RR: 27 (18 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.2 kg (admission): 92.2 kg
   Height: 61 Inch
   CVP: 0 (0 - 30)mmHg
   Total In:
                                                                  1,112 mL
                                                                  1,069 mL
   PO:
                                                                    150 mL
                                                                    600 mL
   TF:
   IVF:
                                                                    962 mL
                                                                    469 mL
   Blood products:
   Total out:
                                                                  2,420 mL
                                                                    730 mL
   Urine:
                                                                  2,420 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,308 mL
                                                                    339 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: ///17/
   Ve: 13.4 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Lymphatic: trach in place
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: clear BS anteriorly on R, diminished BS on L
   Abdominal: Soft, Non-tender, firm, hypoactive BS
   Extremities: Right: 1+, Left: 1+, contracted
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   220 K/uL
   166 mg/dL
   0.8 mg/dL
   17 mEq/L
   3.1 mEq/L
   20 mg/dL
   112 mEq/L
   141 mEq/L
   26.9 %
   7.6 K/uL
        [image002.jpg]
                             [**2129-3-22**]  11:00 PM
                             [**2129-3-23**]  06:08 AM
                             [**2129-3-24**]  02:21 AM
                             [**2129-3-25**]  02:17 AM
   WBC
   14.6
   12.7
   8.7
   7.6
   Hct
   26.4
   27.5
   25.3
   26.9
   Plt
   [**Telephone/Fax (3) 2398**]20
   Cr
   1.6
   1.4
   1.0
   0.8
   Glucose
   58
   33
   133
   166
   Other labs: PT / PTT / INR:15.8/28.3/1.4, ALT / AST:13/14, Alk Phos / T
   Bili:105/1.2, Albumin:3.2 g/dL, LDH:135 IU/L, Ca++:8.3 mg/dL, Mg++:2.0
   mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   37 yo male with spina bifida, chronically on the ventilator, here with
   sepsis and dense L-sided pneumonia, pleural effusion, UTI, stage 4
   sacral decub, and ARF.
   1. Sepsis- sources listed above.  Continue cefipime to cover GNR in
   sputum (ID still pending), ecoli UTI.  Hemodynamically stable.
   2. Acute renal failure.  Likely pre-renal, improved.
   3. Respiratory Failure.  Left pleural effusion/pna/atelectasis.
   Tolerating home vent settings, though no improvement in rpt CXR
   yesterday.  Will bronch today to look at L side to determine if he has
   chronic focal obstruction.  Dyspena resolved.
   Clinically stable, can return to rehab w/2wk course of abx, pending
   further info on sputum cx.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2129-3-22**] 11:03 PM
   Multi Lumen - [**2129-3-22**] 11:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:

2129-03-26 08:23:00 Physician Resident Progress Note
Chief Complaint: 37 yo male with spina bifida, h/o hypercarbic resp
   failure on chronic vent support, h/o recurrent UTIs, a/w sepsis
   (hypotension, fever, LLL infiltrate, positive UA) now with GPR/GNR in
   sputum and pan-resistant E.Coli in urine
   24 Hour Events:
 MULTI LUMEN - STOP [**2129-3-25**] 06:00 PM
 PICC LINE - STOP [**2129-3-25**] 07:00 PM
 MIDLINE - START [**2129-3-25**] 08:52 PM
   Pt received with a midline, dressing occlusive, dry and clean. IV not
   flushing well, not aspirating at all, IV nurse consulted, she checked
   the IV, no treatment.
   - e.coli is cefipime sensitive
   - grew pseudomonas but sensitivies pending
   Allergies:
   Gatifloxacin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Seroquel (Oral) (Quetiapine Fumarate)
   Unknown;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2129-3-25**] 08:30 AM
   Cefipime - [**2129-3-26**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-3-25**] 10:00 PM
   Famotidine (Pepcid) - [**2129-3-25**] 10:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-26**] 08:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.4
   HR: 79 (72 - 100) bpm
   BP: 122/77(88) {101/58(64) - 131/90(97)} mmHg
   RR: 24 (16 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.2 kg (admission): 92.2 kg
   Height: 61 Inch
    CVP: 0 (0 - 0)mmHg
   Total In:
                                                                  1,740 mL
                                                                    584 mL
   PO:
                                                                    900 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    840 mL
                                                                    184 mL
   Blood products:
   Total out:
                                                                  1,972 mL
                                                                    475 mL
   Urine:
                                                                  1,970 mL
                                                                    475 mL
   NG:
   Stool:
                                                                      2 mL
   Drains:
   Balance:
                                                                   -232 mL
                                                                    109 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: ///16/
   Ve: 8.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   251 K/uL
   8.4 g/dL
   98 mg/dL
   0.6 mg/dL
   16 mEq/L
   4.0 mEq/L
   14 mg/dL
   115 mEq/L
   143 mEq/L
   28.8 %
   8.0 K/uL
        [image002.jpg]
                             [**2129-3-22**]  11:00 PM
                             [**2129-3-23**]  06:08 AM
                             [**2129-3-24**]  02:21 AM
                             [**2129-3-25**]  02:17 AM
                             [**2129-3-26**]  04:31 AM
   WBC
   14.6
   12.7
   8.7
   7.6
   8.0
   Hct
   26.4
   27.5
   25.3
   26.9
   28.8
   Plt
   [**Telephone/Fax (3) 2398**]20
   251
   Cr
   1.6
   1.4
   1.0
   0.8
   0.6
   Glucose
   58
   33
   133
   166
   98
   Other labs: PT / PTT / INR:15.8/28.3/1.4, ALT / AST:13/14, Alk Phos / T
   Bili:105/1.2, Albumin:3.2 g/dL, LDH:135 IU/L, Ca++:8.2 mg/dL, Mg++:1.7
   mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   37 yo male with spina bifida, h/o hypercarbic resp failure on chronic
   vent support, h/o recurrent UTIs, a/w sepsis (hypotension, fever, LLL
   infiltrate, positive UA) now with GPR/GNR in sputum and pan-resistant
   E.Coli in urine
   #. Sepsis: improved; source sputum/urine so far.
   - sputum with gram positive rods and gram negative rods; found to have
   P. aureginosa, sensitivites pending.  Urine with resistant e.coli.
   sensitive to tobra/gent but also sensitive to cefepime.
   -  Cont for full 15 day course for HAP/VAP; will await sensitivities to
   see if sputum is sensitive to cefepime
   - stop vanco; no evidence of GPC on any culture
   - contact precautions
   - Decubitus ulcer: appreciated wound care recs.
   - c.diff; pending
   - culture if spikes
   #. Acute Kidney Injury: improving
   - receives furosemide at home; hold for now
   #. Chronic hypercarbic resp failure dependant on Vent
   - cont with current vent settings
   - respiratory therapy to follow
   - patient asked about the possibility of stenting lower left airway
   since he
s had problems since the past with that; will consider
   bronchoscopy this afternoon- d/w team.
   #. DM
   - patient refusing ISS.  Cont home diabetic meds
   #. Hypertension: hypotensive initially likely in the setting of sepsis
   - hold off on atenolol, furosemide for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2129-3-25**] 08:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-03-26 09:50:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   HPI:
   E-Coli--Cefepime Sensitive found on culture results
   24 Hour Events:
 MULTI LUMEN - STOP [**2129-3-25**] 06:00 PM
 PICC LINE - STOP [**2129-3-25**] 07:00 PM
 MIDLINE - START [**2129-3-25**] 08:52 PM
   Pt received with a midline, dressing occlusive, dry and clean. IV not
   flushing well, not aspirating at all, IV nurse consulted, she checked
   the IV, no treatment.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Gatifloxacin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Seroquel (Oral) (Quetiapine Fumarate)
   Unknown;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2129-3-25**] 08:30 AM
   Cefipime - [**2129-3-26**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-3-25**] 10:00 PM
   Famotidine (Pepcid) - [**2129-3-26**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2129-3-26**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.3
C (97.3
   HR: 87 (72 - 100) bpm
   BP: 119/76(84) {101/58(64) - 131/90(97)} mmHg
   RR: 22 (16 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.2 kg (admission): 92.2 kg
   Height: 61 Inch
             Total In:
                                                                  1,740 mL
                                                                    643 mL
   PO:
                                                                    900 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    840 mL
                                                                    243 mL
   Blood products:
   Total out:
                                                                  1,972 mL
                                                                    655 mL
   Urine:
                                                                  1,970 mL
                                                                    655 mL
   NG:
   Stool:
                                                                      2 mL
   Drains:
   Balance:
                                                                   -232 mL
                                                                    -12 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: ///16/
   Ve: 13.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Trach in place
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft
   Musculoskeletal: Unable to stand
   Skin:  Cool, Decubitus ulcer
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   251 K/uL
   98 mg/dL
   0.6 mg/dL
   16 mEq/L
   4.0 mEq/L
   14 mg/dL
   115 mEq/L
   143 mEq/L
   28.8 %
   8.0 K/uL
        [image002.jpg]
                             [**2129-3-22**]  11:00 PM
                             [**2129-3-23**]  06:08 AM
                             [**2129-3-24**]  02:21 AM
                             [**2129-3-25**]  02:17 AM
                             [**2129-3-26**]  04:31 AM
   WBC
   14.6
   12.7
   8.7
   7.6
   8.0
   Hct
   26.4
   27.5
   25.3
   26.9
   28.8
   Plt
   [**Telephone/Fax (3) 2398**]20
   251
   Cr
   1.6
   1.4
   1.0
   0.8
   0.6
   Glucose
   58
   33
   133
   166
   98
   Other labs: PT / PTT / INR:15.8/28.3/1.4, ALT / AST:13/14, Alk Phos / T
   Bili:105/1.2, Albumin:3.2 g/dL, LDH:135 IU/L, Ca++:8.2 mg/dL, Mg++:1.7
   mg/dL, PO4:1.8 mg/dL
   Imaging: CXR--Extensive left sided collapse with suggestion of left
   mainstem patency and likley underlying infiltrate as well.  Small
   effusion possible but effusion does not appear dominant pathology.
   Microbiology: Pseudomonas--Lung--[**Last Name (un) 968**]-P
   E.Coli--Urine--[**Last Name (un) 968**]-_Cefepime
   Assessment and Plan
   37 yo with h/o hypercarbic resp failure and on chronic ventilator
   support admit with sepsis and pulmonary infiltrate with gram negative
   rods in urine and sputum.  He has had some reasonable stability and
   evolved some further definition of sensitivities of organisms
   identified to aid in antibiotic treatment choice.
   Respiratory Failure
   Patient with chronic hypercarbic resp failure
he has likely chest wall
   restriction in combination with multi-lobar collapse contributing.  He
   has an open question of source of the collapse but may well be chronic
   and due to restriction and poor cough->
   -Rx PNA
   -Bronch for evaluation of airways obstruction and clearance of
   sections
pt with po intake this morning and plan for eval [**3-27**]
   -Continue with A/C support
   Metabolic Acidosis
possible with decreasing bicarb but need pH to
   evaluate
   Acute Renal Failure-
   -Patient with lasix held and has had reasonable stability of renal
   function.
   Sepsis has stabilized
continue ABX with Cefepime
   ICU Care
   Nutrition:Regular Diet
   Glycemic Control:  Regular insulin sliding scale
and on po medications
   Lines:
   Midline - [**2129-3-25**] 08:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2129-03-27 07:35:00 Physician Resident Progress Note
Chief Complaint: 37 yo male with spina bifida, h/o hypercarbic resp
   failure on chronic vent support, h/o recurrent UTIs, p/w sepsis
   (hypotension, fever, LLL infiltrate, positive UA) now with pseudomonas
   in sputum and pan-resistant E.Coli in urine
   24 Hour Events:
   - Bronched this morning
   - D/c'd pneumoboots as was worsening edema, still on SC heparin
   - Sensitvities back on sputum, pseudomonas sensitive to cefepime
   Allergies:
   Gatifloxacin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Seroquel (Oral) (Quetiapine Fumarate)
   Unknown;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2129-3-25**] 08:30 AM
   Cefipime - [**2129-3-27**] 05:26 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2129-3-26**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2129-3-27**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-27**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 91 (73 - 96) bpm
   BP: 91/69(72) {91/50(62) - 137/101(105)} mmHg
   RR: 24 (16 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.2 kg (admission): 92.2 kg
   Height: 61 Inch
             Total In:
                                                                  1,090 mL
                                                                    174 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                    690 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  1,890 mL
                                                                    680 mL
   Urine:
                                                                  1,890 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -800 mL
                                                                   -506 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 18 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: ///17/
   Ve: 12.6 L/min
   Physical Examination
   Gen: Awake, alert, responsive
   CV: RRR
   Lungs: coarse BS, diminshed on left base- trach in place
   Abd: obese, firm, NT. Normal BS
   Ext: 2+ BLE edema, stable
   Neuro: A/O x 3
   Labs / Radiology
   269 K/uL
   8.3 g/dL
   121 mg/dL
   0.5 mg/dL
   17 mEq/L
   3.9 mEq/L
   12 mg/dL
   115 mEq/L
   141 mEq/L
   27.0 %
   8.0 K/uL
        [image002.jpg]
                             [**2129-3-22**]  11:00 PM
                             [**2129-3-23**]  06:08 AM
                             [**2129-3-24**]  02:21 AM
                             [**2129-3-25**]  02:17 AM
                             [**2129-3-26**]  04:31 AM
                             [**2129-3-27**]  03:39 AM
   WBC
   14.6
   12.7
   8.7
   7.6
   8.0
   8.0
   Hct
   26.4
   27.5
   25.3
   26.9
   28.8
   27.0
   Plt
   [**Telephone/Fax (3) 2398**]20
   251
   269
   Cr
   1.6
   1.4
   1.0
   0.8
   0.6
   0.5
   Glucose
   58
   33
   133
   166
   98
   121
   Other labs: PT / PTT / INR:15.8/28.3/1.4, ALT / AST:13/14, Alk Phos / T
   Bili:105/1.2, Albumin:3.1 g/dL, LDH:135 IU/L, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:1.7 mg/dL
   Imaging: No new imaging
   Microbiology: Sputum [**3-23**]: cefepime sensitive pseudomonas
   Urine [**3-22**]: cefepime sensitive E. coli
   Assessment and Plan
   37 yo male with spina bifida, h/o hypercarbic resp failure on chronic
   vent support, h/o recurrent UTIs, p/w sepsis (hypotension, fever, LLL
   infiltrate, positive UA) now with pseudomonas in sputum and
   pan-resistant E.Coli in urine
   #. Sepsis: Improved; source sputum/urine so far.
   - Sputum with pseudomonas, cefepime sensitive, urine with cefepime
   sensitive E. coli.
   - Cont for full 15 day course of Cefepime for HAP/VAP
   - Contact precautions
   - Decubitus ulcer: appreciated wound care recs.
   - C.diff negative x 2; will send third
   - Culture if spikes
   #. Acute Kidney Injury: improving
   - Receives furosemide at home; hold for now, can consider restarting
   given stable BP and increasing edema
   #. Chronic hypercarbic resp failure dependant on Vent. Now s/p bronch
   without intervention as LLL with anatomy leading to chronic LLL
   collapse.
   - Cont with current vent settings
   - Respiratory therapy to follow, aggressive chest PT
   - CXR in am
   #. DM
   - Patient refusing ISS.  Cont home diabetic meds (metformin, glipizide)
   #. Hypertension: hypotensive initially likely in the setting of sepsis
   - Hold off on atenolol, furosemide as above
   ICU Care
   Nutrition:
   PO
   Glycemic Control:  Home oral anti-hyperglycemic meds, pt refused ISS
   Lines:
   Midline - [**2129-3-25**] 08:52 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, screening for LTAC

2129-03-27 11:38:00 Physician Attending Progress Note
Chief Complaint: Sepsis--GNR
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   1)Bronch Completed-
   -No airways obstruction
   -Mucus at main carina cleared to segmental level of LUL but LLL opening
   too narrow to pass scope
   -No samples sent for culture
   History obtained from Patient
   Allergies:
   Gatifloxacin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Seroquel (Oral) (Quetiapine Fumarate)
   Unknown;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2129-3-25**] 08:30 AM
   Cefipime - [**2129-3-27**] 05:26 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-3-27**] 08:00 AM
   Midazolam (Versed) - [**2129-3-27**] 08:23 AM
   Fentanyl - [**2129-3-27**] 08:23 AM
   Famotidine (Pepcid) - [**2129-3-27**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2129-3-27**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 106 (73 - 135) bpm
   BP: 137/91(100) {91/50(62) - 163/101(105)} mmHg
   RR: 24 (16 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.2 kg (admission): 92.2 kg
   Height: 61 Inch
             Total In:
                                                                  1,090 mL
                                                                    743 mL
   PO:
                                                                    400 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    690 mL
                                                                    263 mL
   Blood products:
   Total out:
                                                                  1,890 mL
                                                                  1,200 mL
   Urine:
                                                                  1,890 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -800 mL
                                                                   -457 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 27 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: ///17/
   Ve: 14.8 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   left base), (Breath Sounds: Diminished: )
   Skin:  Not assessed
   Neurologic: Responds to: voice, Movement: Not assessed, Tone: Not
   assessed
   HEENT: Patient with signficant cerumen obscuring visualization of TM.
   Trach in good position without erythema
   Labs / Radiology
   8.3 g/dL
   269 K/uL
   121 mg/dL
   0.5 mg/dL
   17 mEq/L
   3.9 mEq/L
   12 mg/dL
   115 mEq/L
   141 mEq/L
   27.0 %
   8.0 K/uL
        [image002.jpg]
                             [**2129-3-22**]  11:00 PM
                             [**2129-3-23**]  06:08 AM
                             [**2129-3-24**]  02:21 AM
                             [**2129-3-25**]  02:17 AM
                             [**2129-3-26**]  04:31 AM
                             [**2129-3-27**]  03:39 AM
   WBC
   14.6
   12.7
   8.7
   7.6
   8.0
   8.0
   Hct
   26.4
   27.5
   25.3
   26.9
   28.8
   27.0
   Plt
   [**Telephone/Fax (3) 2398**]20
   251
   269
   Cr
   1.6
   1.4
   1.0
   0.8
   0.6
   0.5
   Glucose
   58
   33
   133
   166
   98
   121
   Other labs: PT / PTT / INR:15.8/28.3/1.4, ALT / AST:13/14, Alk Phos / T
   Bili:105/1.2, Albumin:3.1 g/dL, LDH:135 IU/L, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   37 yo male with spinal deformity admit with sepsis and pulmonary and
   urinary source both sensitive to Cefepime.  He has had bronchoscopy
   revealing no significant aiway obstruction but has LLL bronchus with
   severe narrowing at opening likely contributing to chronic collapse.
   It would appear an anatomic variant perhaps made worse by the LLL
   collapse.  It does also appear to be distal enough to be technically
   limiting in terms of capacity for stenting.
   1)Respiratory Failure
   -He has chronic chest wall restriction which has led to chronic
   ventilatory failure and has chronic LLL collapse with proximal airway
   narrowing.  In addition his pneumonia has provided an acute challenge
   as well
   -Cefepime for VAP
   -Rotation position as tolerated
   -Will re-culture for spike.
   -Chest PT
   -CXR
   2)Sepsis-
   -Good hemodynamic stability
   -Continue ABX
   3)Acute Renal Failure-
   -Stable Creatinine
   -Mild volume overload and will return to baseline lasix dosing
   -Follow urine output
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2129-3-25**] 08:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
would consider move to transfer to vent facility with
   stability maintained
   Total time spent: 35 minutes

2129-03-28 15:26:00 Physician Attending Progress Note
Chief Complaint: gram negative pneumonia and UTI
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Bronchoscopy done yesterday revealed some narrowing of a left bronchus
   that was felt technically not amenable to stenting.  Otherwise no major
   clinical events.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Gatifloxacin
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Seroquel (Oral) (Quetiapine Fumarate)
   Unknown;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2129-3-28**] 02:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Chlorhexidine, Debrox 6.5%, Famotidine, Lasix, glipizide, SQH, MDIs,
   metformin, Lorazepam; others per ICU team note and [**Month (only) **] (review at
   rounds)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-28**] 03:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (99
   HR: 79 (79 - 108) bpm
   BP: 124/79(89) {102/50(62) - 134/86(94)} mmHg
   RR: 22 (19 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.2 kg (admission): 92.2 kg
   Height: 61 Inch
             Total In:
                                                                  2,270 mL
                                                                  1,068 mL
   PO:
                                                                  1,680 mL
                                                                    720 mL
   TF:
   IVF:
                                                                    590 mL
                                                                    348 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                  3,725 mL
   Urine:
                                                                  2,440 mL
                                                                  3,725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -170 mL
                                                                 -2,657 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   SpO2: 97%
   ABG: ///17/
   Ve: 9.6 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   8.3 g/dL
   296 K/uL
   96 mg/dL
   0.7 mg/dL
   17 mEq/L
   4.0 mEq/L
   10 mg/dL
   113 mEq/L
   140 mEq/L
   27.2 %
   10.9 K/uL
        [image002.jpg]
                             [**2129-3-22**]  11:00 PM
                             [**2129-3-23**]  06:08 AM
                             [**2129-3-24**]  02:21 AM
                             [**2129-3-25**]  02:17 AM
                             [**2129-3-26**]  04:31 AM
                             [**2129-3-27**]  03:39 AM
                             [**2129-3-28**]  04:20 AM
   WBC
   14.6
   12.7
   8.7
   7.6
   8.0
   8.0
   10.9
   Hct
   26.4
   27.5
   25.3
   26.9
   28.8
   27.0
   27.2
   Plt
   [**Telephone/Fax (3) 2398**]20
   251
   269
   296
   Cr
   1.6
   1.4
   1.0
   0.8
   0.6
   0.5
   0.7
   Glucose
   58
   33
   133
   166
   98
   121
   96
   Other labs: PT / PTT / INR:15.6/26.9/1.4, ALT / AST:13/14, Alk Phos / T
   Bili:105/1.2, Albumin:3.1 g/dL, LDH:135 IU/L, Ca++:8.4 mg/dL, Mg++:1.8
   mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   37 yo male with spinal deformity admitted with sepsis, now improved.
   Identified sources included pulmonary and urine sources, both sensitive
   to cefepime.  He had bronchoscopy revealing no significant aiway
   obstruction but has LLL bronchus with narrowing at opening likely
   contributing to chronic collapse. The impression of the bronchoscopist
   was that it was an anatomic variant -- perhaps made worse by the LLL
   collapse. It was also felt to be distal enough to be technically
   limiting in terms of capacity for stenting.
   Respiratory Failure
   chronic chest wall restriction leading to chronic ventilatory failure,
   as well as chronic LLL collapse with proximal airway narrowing
   Pneumonia appears to have caused acute decompensation, as well
   -Cefepime for VAP
   -Rotation position as tolerated
   -Will re-culture for spike.
   -Chest PT
   Sepsis - improved
   -Continue ABX x 2 weeks
   acute Renal Failure - resolved
   ICU Care
   Nutrition: TF
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Midline - [**2129-3-25**] 08:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes